US08633183B2
A-1) 4-Chloro-5-iodo-6-methyl-pyrimidin
A suspension of 90 g (0.38 mol) 4-hydroxy-5-iodo-6-methylpyrimidine in 600 mL POCl3 is heated for 1 h at 90° C. The reaction mixture is concentrated under reduced pressure and the residue is poured into crushed ice. The precipitated solid is collected by filtration and washed with water. After drying, the desired product is obtained as a solid (90 g; 93%).

reactant | 4-hydroxy-5-iodo-6-methylpyrimidine | 0.38 mol, 90 g | OC1=NC=NC(=C1I)C | C5H5IN2O
reactant | POCl3 | 600 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-iodo-6-methyl-pyrimidin | ClC1=NC=NC(=C1I)C | C5H4ClIN2
